US04159375
6-(o-Chlorophenyl)-3-methyl-1,2,4-triazolo[4,3-b]-1,2,4-triazine
A mixture of 4.45 g. of 6-(o-chlorophenyl)-3-hydrazino-1,2,4-triazine and 50 ml. of ethyl orthoacetate is treated as described in Example 16, giving the desired product as yellow crystals, m.p. 172°-175° C.

reactant | 6-(o-chlorophenyl)-3-hydrazino-1,2,4-triazine | ClC1=C(C=CC=C1)C1=CN=C(N=N1)NN | C9H8ClN5
reactant | ethyl orthoacetate | C(C)(OCC)([O-])[O-]
product | 6-(o-Chlorophenyl)-3-methyl-1,2,4-triazolo[4,3-b]-1,2,4-triazine | ClC1=C(C=CC=C1)C=1C=NC=2N(N1)C(=NN2)C | C11H8ClN5
